US07169780B2
Step 8: N-(4-fluorobenzyl)-5-hydroxy-2-[(2S,4R)-4-methoxypyrrolidin-2-yl]-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide
Benzyl-(2S,4R)-2-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-4-methoxypyrrolidine-1-carboxylate was dissolved in methanol and Pd/C 10% wt (14% w/w) was added. The mixture was stirred under H2 atmosphere at room temperature. After 2 hours the reaction mixture was filtered and methanol was removed in vacuo to give title compound.

reactant | Benzyl-(2S,4R)-2-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-4-methoxypyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)C=1N(C(C(=C(N1)C(=O)NCC1=CC=C(C=C1)F)O)=O)C | C26H27FN4O6
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-(4-fluorobenzyl)-5-hydroxy-2-[(2S,4R)-4-methoxypyrrolidin-2-yl]-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)[C@H]2NC[C@@H](C2)OC)C=C1 | C18H21FN4O4
